US06090813
The 4-(t-butoxy)-1-(4-pyridylpiperidin-4-ylcarbonyl)piperazine (3.74 g) was then dissolved in dry dichloromethane (50 ml) and treated with trifluoroacetic acid (5.3 ml) and stirred under an argon atmosphere at room temperature for three hours. The dichloromethane solvent was then removed by evaporation to afford a brown oil which slowly solidified, This solid was then taken up in dichloromethane, filtered and washed with water, brine and then dried (MgSO4). The resultant solution was then evaporated to dryness to yield a pale yellow oil which slowly crystallised to give 1-(4-pyridylpiperidin-4-ylcarbonyl)piperazine as a yellow solid;

reactant | 4-(t-butoxy)-1-(4-pyridylpiperidin-4-ylcarbonyl)piperazine | 3.74 g | C(C)(C)(C)ON1CCN(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1 | C19H30N4O2
reactant | trifluoroacetic acid | 5.3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(4-pyridylpiperidin-4-ylcarbonyl)piperazine | N1=CC=C(C=C1)N1CCC(CC1)C(=O)N1CCNCC1 | C15H22N4O
